US05101015
Phenylacetone (100 mg, 0.745 mmol) was dissolved in anhydrous methanol (2.0 ml). Beta-alanine (398 mg, 4.47 mmol) was added, followed by sodium cyanoborohydride (94 mg, 1.49 mmol). After 18 hours of stirring under nitrogen, the reaction mixture was filtered, and the filtrate solvent was removed in vacuo. The resulting crude material was purified on four 1.0 millimeter C18 reverse-phase preparative thin layer chromatography plates eluted with H2O/methanol/acetic acid (40/60/0.4). The material obtained was dissolved in ethyl acetate (20 ml) and was extracted with 1.0M sodium bicarbonate (3×20 ml). The aqueous extracts were combined, the pH was adjusted to 4 with 1.0M hydrochloric acid, and the solvent was removed in vacuo. The resulting crystalline solid was then triturated twice with 50-milliliter portions of ethyl acetate and filtered. The filtrates were combined, and the solvent was removed in vacuo to yield 93 milligrams of N-carboxyethyl-amphetamine.

reactant | Phenylacetone | 0.745 mmol, 100 mg | C1(=CC=CC=C1)CC(C)=O | C9H10O
reactant | Beta-alanine | 4.47 mmol, 398 mg | NCCC(=O)O | C3H7NO2
reactant | sodium cyanoborohydride | 1.49 mmol, 94 mg | C(#N)[BH3-].[Na+]
solvent | methanol | 2.0 ml | CO | CH4O
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | N-carboxyethyl-amphetamine | 93 milligrams | C(=O)(O)CCNC(C)CC1=CC=CC=C1 | C12H17NO2
